US09216173B2
To a solution of 4-amino-tetrahydro-2H-pyran-4-carbonitrile (130 g, 1.03 mol) in dichloromethane (1000 mL) was added 4-dimethylaminopyridine (252 g, 2.06 mol) followed by di-tert-butyl dicarbonate (3.33 M in dichloromethane, 300 mL, 1.03 mol) at a temperature maintained between 0-10° C. The reaction mixture was then allowed to warm to ambient temperature. After 16 hours, the reaction mixture was adjusted to pH˜7 by the addition of hydrochloric acid (10% aqueous solution). The reaction mixture was extracted with dichloromethane (3×800 mL). The organics were combined, washed with brine (600 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via chromatography on silica gel (4-12% ethyl acetate/petroleum ether, linear gradient) to afford tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate.

reactant | 4-amino-tetrahydro-2H-pyran-4-carbonitrile | 1.03 mol, 130 g | NC1(CCOCC1)C#N | C6H10N2O
reactant | di-tert-butyl dicarbonate | 1.03 mol, 3.33 M, 300 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.06 mol, 252 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate | C(#N)C1(CCOCC1)NC(OC(C)(C)C)=O | C11H18N2O3
